US06900357B2
Synthesis of (2S, 3S)-3-hydroxy-2,5-dimethylhexanal (Table 1, entry 2):
A solution of freshly distilled propionaldehyde (144 μL, 2.0 mmol) in 500 μL dimethylformamide pre-cooled to 4° C. was added slowly over the course of 2.5 h to a stirring suspension of isovaleraldehyde (107 μL, 1.0 mmol), L-proline (11.5 mg, 0.10 mmol) and 500 μL dimethylformamide at 4° C. After 16 h, the resulting solution was diluted with diethyl ether and washed successively with water and brine. The combined aqueous layers were back-extracted with 3 portions of dichloromethane. The organic layers were combined, dried over anhydrous MgSO4, and concentrated in vacuo. Flash chromatography (20:7 pentane:diethyl ether) afforded the title compound as a clear, colorless oil in 88% yield (126 mg, 0.88 mmol), 97% ee and 3:1 anti:syn. IR (film) 3419, 2958, 2935, 2872, 1719,1466, 1368, 1152, 1098, 1062,1025, 976.5 cm−1; 1H NMR (300 MHz, CDCl3) δ9.75 (d, J=1.5 Hz, 1H, CHO); 3.89 (ddd, 1H, J=9.9, 6.6, 2.7 Hz, 1H, CHOH); 2.44 (m, 1H, CHCH3); 1.83 (m, 1H, CH(CH3)2); 1.47 (m, 1H, CH2); 1.26 (m, 1H, CH2); 1.14 (d, 3H, J=7.2 Hz, CH3CHCHO); 0.97 (d, 3H, J=5.1 Hz, (CH3)2CH); 0.92 (d, 3H, J=6.6 Hz, (CH3)2CH); 13C NMR (75 MHz, CDCl3) δ205.5, 70.9, 52.8, 44.0, 34.5, 24.1, 21.8, 11.1; HRMS (CI) exact mass calcd for [M +H]+ (C8H17O2) requires m/z 145.1228, found m/z 145.1225; [α]D=−33.6 (c=1.0, CHCl3). The product ratios were determined by GLC analysis of the acetal derived from 2,2-dimethylpropane-1,3-diol (obtained by the method of Yamamoto, supra) using a Bodman Chiraldex β-DM (30 m×0.25 mm) column (100° C. isotherm, 23 psi); (2S, 3S) anti isomer tr=50.8 min, (2R, 3R) anti isomer tr=53.2 min, (2R, 3S) and (2S, 3R) syn isomers tr=45.5 min.

reactant | propionaldehyde | 2.0 mmol, 144 μL | C(CC)=O | C3H6O
reactant | isovaleraldehyde | 1.0 mmol, 107 μL | C(CC(C)C)=O | C5H10O
reactant | L-proline | 0.10 mmol, 11.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 500 μL | CN(C=O)C | C3H7NO
product | (2S, 3S)-3-hydroxy-2,5-dimethylhexanal | 88% yield | O[C@H]([C@@H](C=O)C)CC(C)C | C8H16O2
